US07259183B2
Preparation of 4-bromo-2-chloro-1-(1-methoxy-1-methyl-ethyl)-benzene
A solution of 370 mg (1.48 mmol) of 2-(4-bromo-2-chloro-phenyl)-propan-2-ol in 2 ml DMF was added to a suspension of sodium hydride (65 mg, ˜60% dispersion in oil) in 2 ml DMF at 0° C. The mixture was stirred at 0° C. for 30 min and then 111 μl (1.78 mmol) of methyl iodide were added. The reaction mixture was then warmed to rt and stirring was continued overnight. Then water was added and the mixture was extracted with ether. The organic phase was washed with water and brine, dried (MgSO4), filtered, and concentrated in vacuo to give a residue which was purified by flash column chromatography (1:9 ether/pentane). The title compound was obtained as a colorless liquid (310 mg, 79%). 1H NMR (CDCl3, 300 MHz): δ 1.64 (s, 6H), 3.13 (s, 3H), 7.35 (m, 2H), 7.54 (d, J=1.7 Hz, 1H).

reactant | 2-(4-bromo-2-chloro-phenyl)-propan-2-ol | 1.48 mmol, 370 mg | BrC1=CC(=C(C=C1)C(C)(C)O)Cl | C9H10BrClO
reactant | sodium hydride | 65 mg | [H-].[Na+]
reactant | methyl iodide | 1.78 mmol, 111 μl | CI | CH3I
reactant | water | O | H2O
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
product | 4-bromo-2-chloro-1-(1-methoxy-1-methyl-ethyl)-benzene | BrC1=CC(=C(C=C1)C(C)(C)OC)Cl | C10H12BrClO
